US09315521B2
2-{[(1-ethyl-1H-pyrazol-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (221 mg, 881 μmol) was stirred in methanol (30 mL) and a solution of 4 N HCl in dioxane (330 μL, 1.3 mmol) was added dropwise at 0° C. The mixture was stirred for 30 minutes at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford 2-{[(1-ethyl-1H-pyrazol-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride (243 mg, 96% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.34 (t, J=7.3 Hz, 3H), 2.25 (s, 3H), 4.08 (q, J=7.3 Hz, 2H), 4.36 (s, 2H), 6.13 (s, 1H), 6.22 (d, J=2.2 Hz, 1H), 7.66 (d, J=2.2 Hz, 1H); LRMS (ES+) m/z 251 (75%, M+1).

reactant | 2-{[(1-ethyl-1H-pyrazol-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 881 μmol, 221 mg | C(C)N1N=C(C=C1)CSC1=NC(=CC(=N1)O)C | C11H14N4OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 1.3 mmol, 330 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 30 mL | CO | CH4O
product | 2-{[(1-ethyl-1H-pyrazol-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride | 243 mg, 96% yield | Cl.C(C)N1N=C(C=C1)CSC1=NC(=CC(=N1)O)C | InChI=1S/C11H14N4OS.ClH/c1-3-15-5-4-9(14-15)7-17-11-12-8(2)6-10(16)13-11;/h4-6H,3,7H2,1-2H3,(H,12,13,16);1H
